US08314091B2
The N-tert-butyl-3-(chloromethyl)benzamide was placed under an argon atmosphere and treated with a solution of tert-butyl 1-piperazine-carboxylate (2.96 g, 15.9 mmol) and N-ethyl-N-isopropylpropan-2-amine (5.53 mL, 31.7 mmol) in dimethyl sulfoxide (15 mL) at room temperature. The reaction mixture was stirred overnight, diluted with ethyl acetate (100 mL) and washed with saturated aqueous sodium chloride (×5). The organic phase was dried on magnesium sulfate, filtered and concentrated under vacuum to give a crude oil. This oil was purified by iterative rounds of silica chromatography (20-70% ethyl acetate in n-hexanes, followed by 0-6% methanol in dichloromethane) to give the intermediate tert-butyl 4-(3-(tert-butylcarbamoyl)benzyl)piperazine-1-carboxylate (5.04 g).

reactant | N-tert-butyl-3-(chloromethyl)benzamide | C(C)(C)(C)NC(C1=CC(=CC=C1)CCl)=O | C12H16ClNO
reactant | tert-butyl 1-piperazine-carboxylate | 15.9 mmol, 2.96 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 31.7 mmol, 5.53 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(3-(tert-butylcarbamoyl)benzyl)piperazine-1-carboxylate | 5.04 g | C(C)(C)(C)NC(=O)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C21H33N3O3
